US05236952
A suspension of 860.1 mg of 4-(2-benzimidazolyl)-2-methoxy-6-nitrophenol in 10 ml of glacial acetic acid and 10 ml of 48 percent hydrobromic acid is heated to boiling under reflux for 72 hours. The mixture is then evaporated and the residue is treated four times with 50 ml of toluene each time, which is again distilled each time. There is obtained 5-(2-benzimidazolyl)-3-nitropyrocatechol of m.p. >300° (from acetone/water).

reactant | 4-(2-benzimidazolyl)-2-methoxy-6-nitrophenol | 860.1 mg | N1=C(NC2=C1C=CC=C2)C2=CC(=C(C(=C2)[N+](=O)[O-])O)OC | C14H11N3O4
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | hydrobromic acid | 10 ml | Br | BrH
product | 5-(2-benzimidazolyl)-3-nitropyrocatechol | N1=C(NC2=C1C=CC=C2)C2=CC(=C(C(O)=C2)O)[N+](=O)[O-] | C13H9N3O4
